US06770646B2
(Trimethylsilyl)diazomethane (2.0M in hexanes, 25 ml) was added slowly with stirring under nitrogen to ethyl 6-methyl-4-oxo-2-heptynoate (7.0 g) in drytetrahydrofuran (20 ml) in a cold water bath. After 16 hours the reaction was evaporated to an oil, which was subjected to chromatography on silica (ethyl acetate/isohexane 1:2) to give the first eluted product, ethyl 5-(3-methyl-1-oxobutyl)-1H-pyrazole4-carboxylate (2.33 g).

reactant | (Trimethylsilyl)diazomethane | 2.0M, 25 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ethyl 6-methyl-4-oxo-2-heptynoate | 7.0 g | CC(CC(C#CC(=O)OCC)=O)C | C10H14O3
product | ethyl 5-(3-methyl-1-oxobutyl)-1H-pyrazole4-carboxylate | 2.33 g | CC(CC(=O)C1=C(C=NN1)C(=O)OCC)C | C11H16N2O3
